US08563575B2
NaH (122 mg) (60% in mineral oil) was added to a solution of 2-(methylsulfonyl)-1H-imidazo[4,5-c]pyridine (500 mg) and 2-(trimethylsilyl)ethoxymethyl chloride (0.538 mL) in DMF (3 ml) at room temperature. The mixture was stirred at room temperature under a dry atmosphere (CaCl2 tube) for 1 h. The reaction mixture was diluted with MeOH (2 mL), and concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-30% EtOAc in hexane) to give 2-(methylsulfonyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazo[4,5-c]pyridine (330 mg) as a light brown solid.

reactant | NaH | 122 mg | [H-].[Na+]
reactant | 2-(methylsulfonyl)-1H-imidazo[4,5-c]pyridine | 500 mg | CS(=O)(=O)C=1NC2=C(C=NC=C2)N1 | C7H7N3O2S
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 0.538 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 2 mL | CO | CH4O
product | 2-(methylsulfonyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazo[4,5-c]pyridine | 330 mg | CS(=O)(=O)C=1N(C2=C(C=NC=C2)N1)COCC[Si](C)(C)C | C13H21N3O3SSi
